US08633207B2
To ethyl 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate (560 mg, 2.55 mmol) in 1:1 MeOH/THF (10 mL) at rt was added 1 M NaOH (2.8 mL, 2.8 mmol). The solution was stirred for 10 min and then concentrated to dryness to afford sodium 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate (548 mg, quantitative). 1H NMR (300 MHz, DMSO-d6) δ 7.66 (dd, 1H), 7.79 (dt, 2H), 8.54 (d, 1H).

reactant | ethyl 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate | 2.55 mmol, 560 mg | FC(C(=O)OCC)(C1=NC=C(C=C1)F)F | C9H8F3NO2
reactant | NaOH | 2.8 mmol, 1 M, 2.8 mL | [OH-].[Na+]
solvent | MeOH THF | 10 mL | CO.C1CCOC1
product | sodium 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate | 548 mg | FC(C(=O)[O-])(C1=NC=C(C=C1)F)F.[Na+] | InChI=1S/C7H4F3NO2.Na/c8-4-1-2-5(11-3-4)7(9,10)6(12)13;/h1-3H,(H,12,13);/q;+1/p-1
